US05451700
A stirred solution of 2,4-dimethoxybenzoyl chloride (10.0 g, 50 mmol) in 10 mL of dichloromethane at 0° C. is treated with 30 mL of diisopropylamine. This solution is stirred at room temperature for 1 hour and the resulting solution is partitioned between ethyl acetate and water. The organic layer is washed with 1N hydrochloride solution, 1N sodium hydroxide solution, water and brine, dried over sodium sulfate and concentrated in vacuo to give 2,4-dimethoxy-N,N-bis(1-methylethyl)benzamide.

reactant | 2,4-dimethoxybenzoyl chloride | 50 mmol, 10.0 g | COC1=C(C(=O)Cl)C=CC(=C1)OC | C9H9ClO3
reactant | diisopropylamine | 30 mL | C(C)(C)NC(C)C | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2,4-dimethoxy-N,N-bis(1-methylethyl)benzamide | COC1=C(C(=O)N(C(C)C)C(C)C)C=CC(=C1)OC | C15H23NO3
